US08975265B2
A solution of 2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester (2.30 g, 4.60 mmol) in MeOH (77 mL) was added a solution of NaOH (3.7 g, 9.24 mmol, 2.0 equiv) in water (15 mL). The resulting mixture was stirred at room temperature for 12 h. The resulting clear solution was concentrated under pressure. The remaining material was treated with water (50 mL), made acidic with an aqueous 2N HCl solution, and extracted with a 4:1 CH2Cl2/isopropanol solution (4×25 mL). The combined organic phases were dried (Na2SO4 anh) and concentrated under reduced pressure to give 2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid (2.4 g, 107%):

reactant | 2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester | 4.60 mmol, 2.30 g | COC(=O)C1=CC=2N(C=C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)NC(=O)OC(C)(C)C)C2=CC=CC=C2 | C30H31N3O4
reactant | NaOH | 9.24 mmol, 3.7 g, 2.0 equiv | [OH-].[Na+]
solvent | MeOH | 77 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | 2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid | 2.4 g, 107% | C(C)(C)(C)OC(=O)NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C(=O)O)C1C1=CC=CC=C1 | C29H29N3O4
